US09303033B2
Synthesis of tert-butyl 5-chloro-3-formylpyrazolo[1,5-a]pyrimidin-7-ylcarbamate
To tert-butyl 5-chloropyrazolo[1,5-a]pyrimidin-7-ylcarbamate (3.7 g, 13.8 mmol) in DMF (36 mL), POCl3 (7.7 mL, 82.9 mmol) was added dropwise at 0° C. After the addition was complete, the reaction was allowed to warm to room temperature and stirred for 8 hours. Then, the reaction was quenched by slow addition to ice cold 6N NaOH. The mixture was diluted with water then the solid was collected by filtration. The solid was washed several more times with water and dried under vacuum overnight. The product, tert-butyl 5-chloro-3-formylpyrazolo[1,5-a]pyrimidin-7-ylcarbamate, was collected as a solid in 27% yield. The product did not ionize on LCMS unless first deprotected using TFA/DCM (1:1). LCMS (M+1=197)

reactant | tert-butyl 5-chloropyrazolo[1,5-a]pyrimidin-7-ylcarbamate | 13.8 mmol, 3.7 g | ClC1=NC=2N(C(=C1)NC(OC(C)(C)C)=O)N=CC2 | C11H13ClN4O2
reactant | POCl3 | 82.9 mmol, 7.7 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | DMF | 36 mL | CN(C)C=O | C3H7NO
product | tert-butyl 5-chloro-3-formylpyrazolo[1,5-a]pyrimidin-7-ylcarbamate | 27% yield | ClC1=NC=2N(C(=C1)NC(OC(C)(C)C)=O)N=CC2C=O | C12H13ClN4O3
